US05962458
A solution of 6-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (1.11 g, 3.86 mmol) and DMF (0.6 ml) in thionyl chloride (15 ml) was heated at reflux for 1 hour. The mixture was allowed to cool, toluene was added and the volatiles were removed by evaporation. The residue was partitioned between methylene chloride and water and the aqueous layer was adjusted to pH8.5 with saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried (MgSO4), and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5). The purified solid was triturated with ether, collected by filtration, washed with water and then ether, and dried under vacuum to give 4-chloro-6-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline (756 mg, 65%).

reactant | 6-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 3.86 mmol, 1.11 g | COC=1C=C2C(NC=NC2=CC1OCCN1N=CN=C1)=O | C13H13N5O3
reactant | DMF | 0.6 ml | CN(C)C=O | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline | 756 mg, 65% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1N=CN=C1 | C13H12ClN5O2
